US08912176B2
Preparation of 1-{[1-(chloroacetyl)azetidin-3-yl]carbonyl}-4-cyclobutyl-1,4-diazepane
To a solution of 1-(azetidin-3-ylcarbonyl)-4-cyclobutyl-1,4-diazepane (330 mg, 1.39 mmol) and Na2CO3 (590 mg, 5.56 mmol) in dichloromethane (10 ml) at 0° C. was added chloroacetyl chloride (107 μl, 1.39 mmol). After 10 mins the reaction temperature was raised to RT and stirred for a further hour. The reaction was then filtered and concentrated at reduced pressure to give the title compound as colourless oil (411 mg, 91% yield), which was used without further purification.

reactant | 1-(azetidin-3-ylcarbonyl)-4-cyclobutyl-1,4-diazepane | 1.39 mmol, 330 mg | N1CC(C1)C(=O)N1CCN(CCC1)C1CCC1 | C13H23N3O
reactant | Na2CO3 | 5.56 mmol, 590 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | chloroacetyl chloride | 1.39 mmol, 107 μl | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-{[1-(chloroacetyl)azetidin-3-yl]carbonyl}-4-cyclobutyl-1,4-diazepane | 411 mg, 91% yield | ClCC(=O)N1CC(C1)C(=O)N1CCN(CCC1)C1CCC1 | C15H24ClN3O2
